US06846833B2
Di(tert-butyl) 5-methoxy-2-thioxo-1H-benzimidazole-1,3(2H)-dicarboxylate
NaH (60% in oil) (5.55 g; 138 mmol) is added in small portions at 10° C., with stirring, to a solution of 2-mercapto-5-methoxybenzimidazole (10 g; 55.5 mmol) in solution in 400 ml of tetrahydrofuran under argon. The reaction mixture is then stirred for 30 minutes at 0° C., and then BOC2O (26.64 g; 122 mmol) is added in one go. Stirring of the reaction mixture is then carried out for 18 hours at ambient temperature. The reaction mixture is diluted with methanol, filtered over Celite and then concentrated to dryness. The residue obtained is subsequently taken up in a 1/1 mixture of petroleum ether/isopropyl ether. The solid which precipitates is then suction-filtered off to yield the title product in the form of a white powder.

reactant | NaH | 138 mmol, 5.55 g | [H-].[Na+]
reactant | 2-mercapto-5-methoxybenzimidazole | 55.5 mmol, 10 g | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | BOC2O | 122 mmol, 26.64 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | Di(tert-butyl) 5-methoxy-2-thioxo-1H-benzimidazole-1,3(2H)-dicarboxylate | COC1=CC2=C(N(C(N2C(=O)OC(C)(C)C)=S)C(=O)OC(C)(C)C)C=C1 | C18H24N2O5S
